US03959322
13β-Isobutyl-17β-(3-phenylpropionoxy)-gon-4-en-3-one
Add 3-phenylpropionyl chloride (.5 g.) in benzene (1.5 cc.) with swirling to 13β-isobutyl-17β-hydroxy-gon-4-en-3-one (.5 g.) in pyridine (2 cc.) at -20°. Store the mixture at -10° for 18 hours, add water and extract the product with ether. Wash, dry and evaporate the extracts to give a residue and recrystallize from methanol to give the title compound, m.p. 101°-106°; ultraviolet absorption peak at 240 mμ (ε15,300); infrared absorption peaks at 5.75, 5.95 μ.

reactant | 3-phenylpropionyl chloride | .5 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | 13β-isobutyl-17β-hydroxy-gon-4-en-3-one | .5 g | C(C(C)C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C21H32O2
reactant | water | O | H2O
solvent | benzene | 1.5 cc | C1=CC=CC=C1 | C6H6
solvent | pyridine | 2 cc | N1=CC=CC=C1 | C5H5N
product | 13β-Isobutyl-17β-(3-phenylpropionoxy)-gon-4-en-3-one | C(C(C)C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(CCC2=CC=CC=C2)=O | C30H40O3
